Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / morphine
 
Attending: ___.
 
Chief Complaint:
Lethargy, Dark Urine
 
Major Surgical or Invasive Procedure:
MRCP.

 
History of Present Illness:
Mr. ___ is a ___ cognitively impaired 
gentleman with severe scoliosis and seizure disorder found to 
have significant LFT derangements and elevated lipase at ___ 
___. 

Patient is nonverbal at baseline; here with aide from residence 
who reports ___ months of patient intermittently screaming out 
and clutching abdomen in pain. Over last week abdominal pain 
worsened and more constant. Denies associated fever, chills, 
nausea, vomiting, diarrhea, or dysuria. Po intake was okay and 
cannot recall any relationship between abdominal pain and food. 
Of note, patient with seizure <1min on ___ which aide 
reports is usual for patient. Patient presented to ___ 
___ where labs were notable for AST/ALT of 604/359 and 
total bilirubin of 3.2 with lipase of 2800. CT notable for 
gallstones but no evidence of cholecystitis. Transferred to 
___ for further management. 

In the ED, initial vitals were: 98.5 50 114/74 18 98% RA. 
Patient was given 0.5mg IV Ativan, Dilaudid 0.5mg IV x 3, 
Ciprofloxacin 400mg IV, Flagyl 500mg IV x 2, Keppra 500mg IV, 
and 2L NS. ERCP was consulted and recommended RUQ US and MRCP. 
RUQ US showed cholelithiasis without sonographic evidence of 
cholecystitis and no ultrasonographic evidence of intra or 
extrahepatic biliary ductal dilatation. Labs were significant 
for WBC 6.9, H/H 12.2/37.0, Plt 170, INR 1.1, Na 142, BUN/Cr 
___, ALT 564 -> 432, AST 317 -> 213, ALP 397 -> 345, Tbili 
3.9 -> 1.9, lipase 443, and lactate 0.9. Exam notable for 
anicteric sclera and soft abdomen with intermittent bradycardia 
(down to ___ while sleeping) with normal pressures. MRCP was 
performed with read pending. Per aide, was told to keep NPO in 
case of intervention tomorrow. Vitals prior to transfer were: 
97.2 66 97/59 18 97% RA.   

On the floor, patient resting comfortably in bed in no acute 
distress. Aide thinks pain medications are working effectively. 
 
 
Past Medical History:
- Intellectual disability 
- Severe Scoliosis
- Seizure Disorder
- Spastic Dysplasia 
- Cerebral palsy 
- Congenital encephalopathy 
- h/o c diff 

 
Social History:
___
Family History:
None relevant. 

 
Physical Exam:
Admission Physical Exam
Vital Signs: Tc97.7 BP 104/66 HR58 RR20 96%RA 
General: Sleeping in bed but awoke to voice and movement. In no 
acute distress.  
HEENT: Sclera anicteric. Would not open mouth. PERRLA.
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation on anterior exam. Unable to get 
patient to sit forward. 
Abdomen: Soft, non-tender, non-distended, bowel sounds present. 
GU: No foley. 
Ext: Warm, well perfused, no edema.   
Neuro: Unable to perform given intellectual impairment and 
nonverbal state. 

Discharge Physical Exam
Vitals: T:97.3 BP:106/75 P:55 R:16 O2:100%RA 
General: Alert, oriented, resting comfortably in bed 
HEENT: Sclera anicteric, PERRLA. 
Lungs: Clear to auscultation bilaterally on anterior lung exam 
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen: soft, non-tender, non-distended, bowel sounds present
Ext: Warm, well perfused, no edema. 
Neuro:Unable to perform given intellectual impairment and 
nonverbal state. 
 
Pertinent Results:
ADMISSION LABS
=
=
=
=
=
=
=
=
================================================================
___ 02:30PM   GLUCOSE-73 UREA N-12 CREAT-0.6 SODIUM-141 
POTASSIUM-3.9 CHLORIDE-105 TOTAL CO2-24 ANION GAP-16
___ 02:30PM   ALT(SGPT)-432* AST(SGOT)-213* ALK PHOS-345* 
TOT BILI-1.9*
___ 02:30PM   CALCIUM-9.3 PHOSPHATE-3.1 MAGNESIUM-1.8
___ 02:30PM   WBC-6.1 RBC-3.64* HGB-10.8* HCT-33.2* MCV-91 
MCH-29.7 MCHC-32.5 RDW-15.3 RDWSD-50.6*
___ 02:30PM   PLT COUNT-169
___ 01:07AM   LACTATE-0.9
___ 12:20AM   ALT(SGPT)-564* AST(SGOT)-317* ALK PHOS-397* 
TOT BILI-3.9*
___ 12:20AM   LIPASE-443*
___ 12:20AM   ALBUMIN-4.0
___ 12:20AM   WBC-6.0 RBC-4.11* HGB-12.2* HCT-37.0* MCV-90 
MCH-29.7 MCHC-33.0 RDW-15.2 RDWSD-50.1*
___ 12:20AM   NEUTS-55.2 ___ MONOS-12.5 EOS-3.3 
BASOS-0.7 IM ___ AbsNeut-3.32 AbsLymp-1.68 AbsMono-0.75 
AbsEos-0.20 AbsBaso-0.04

IMAGES/STUDIES
=
=
=
=
=
=
=
================================================================
Liver/Gallbladder U/S ___
IMPRESSION:  
1.  Cholelithiasis without sonographic evidence of 
cholecystitis. 
2.  No intra or extrahepatic bile duct dilation. 

MRCP ___:
IMPRESSION:   
1.  Cholelithiasis.  No MR evidence for cholecystitis. The 
cystic duct is free 
of stones and appears patent. 
2.  No choledocholithiasis. 
3.  Mild hepatic steatosis. 

DISCHARGE LABS
=
=
=
=
=
=
=
=
================================================================
___ 05:59AM BLOOD WBC-7.4# RBC-3.82* Hgb-11.4* Hct-34.3* 
MCV-90 MCH-29.8 MCHC-33.2 RDW-15.2 RDWSD-49.6* Plt ___
___ 05:59AM BLOOD ___ PTT-63.1* ___
___ 05:59AM BLOOD Plt ___
___ 05:59AM BLOOD Glucose-89 UreaN-8 Creat-0.6 Na-141 K-4.2 
Cl-104 HCO3-29 AnGap-12
___ 05:59AM BLOOD ALT-249* AST-94* AlkPhos-309* TotBili-0.6
___ 05:59AM BLOOD Calcium-9.6 Phos-3.9 Mg-1.___ cognitively impaired gentleman with severe scoliosis 
and seizure disorder found to have significant LFT derangements 
and elevated lipase at ___. 

BRIEF HOSPITAL COURSE
# Acute Cholestatic Hepatitis/Gallstone Pancreatitis : Patient 
with significant LFT, t bili and lipase elevation at OSH where 
labs were notable for AST/ALT of 604/359 and total bilirubin of 
3.2 with lipase of 2800. OSH CT notable for gallstones but no 
evidence of cholecystitis. RUQ US ___ in ED showed 
cholelithiasis also without evidence of cholecystitis and no 
intra or extrahepatic bile duct dilation. Empriically treated 
with ciprofloxacin and flagyl on arrival, soon discontinued d/t 
no SIRS criteia. Hepatology team consulted for comanagement.  
Likely acute cholestatic hepatitis due to gallstones. Pain 
controlled managed with oral and IV hydromorphone. Given MRCP 
with multiple stones near neck of gallbladder recommend urgent 
cholecystectomy to mitigate risk of recurrent pancreatitis and 
cholangitis. Family is amenable to elective CCY to prevent 
future episodes, however they prefer a hospital closer to home 
such as ___ or ___.

# GPC Bacteremia.  Patient had blood cultures ___ bottles grown 
GPCs in clusters and was empirically started on IV Vanco. Blood 
cultures speciated to coag negative Staph. Repeat cultures were 
negative, therefore likely a contaminant and Vancomycin was 
discontinued. 

# H/o dysphagia: Aide reports that patient was recently changed 
to thin liquids pureed solid diet due to concern for dysphagia. 
However, it was later confirmed that patient was on "soft foods 
in pieces." No evidence of aspiration events while in hospital. 

# Seizure disorder: Last seizure on ___ per aide which 
lasted <1 minute. Patient continued on LeVETiracetam 500 mg PO 
BID 
 
# Spasticity: Patient continued on Baclofen 10 mg PO/NG TID  

# Psychiatric: Patient continued on preadmission medications 
QUEtiapine extended-release 50 mg PO DAILY, Lorazepam 0.5 mg 
PO/NG TID:PRN anxiety 

TRANSITIONAL ISSUES:
[] Needs urgent evaluation by general surgery for 
cholecystectomy 
[ ] f/u with PCP ___ 1 week.
[ ] Recheck LFTs within 1 week to confirm they are down 
trending.

# CODE:  Full code 
# CONTACT: ___ (mother) ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LeVETiracetam 500 mg PO BID 
2. Acidophilus (L.acidoph & ___ 
acidophilus) 2 tabs oral DAILY 
3. Vitamin D 50,000 UNIT PO Q 2 WEEKS 
4. Baclofen 10 mg PO TID 
5. QUEtiapine extended-release 50 mg PO DAILY 
6. Lorazepam 0.5 mg PO TID:PRN anxiety  

 
Discharge Medications:
1. Baclofen 10 mg PO TID 
2. LeVETiracetam 500 mg PO BID 
3. Lorazepam 0.5 mg PO TID:PRN anxiety  
RX *lorazepam [Ativan] 2 mg 0.5 (One half) mg by mouth TID :PRN 
Disp #*20 Tablet Refills:*0
4. QUEtiapine extended-release 50 mg PO DAILY 
5. HYDROmorphone (Dilaudid) 2 mg PO Q4H:PRN pain 
RX *hydromorphone [Dilaudid] 2 mg 1 tablet(s) by mouth Q4H:PRN 
Disp #*20 Tablet Refills:*0
6. Acidophilus (L.acidoph & ___ 
acidophilus) 2 tabs oral DAILY 
7. Vitamin D 50,000 UNIT PO Q 2 WEEKS 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis
-----------------
Acute Cholestatic Hepatitis 
Gall stone Pancreatitis

 
Discharge Condition:
Mental Status: 
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound.
Mental Status: Confused - always, nonverbal 

 
Discharge Instructions:
Dear Mr. ___,

You came to ___ for dark urine and altered mental status, 
which is believed to have been due to the inflammation in your 
liver. You were seen by the liver specialists and had a few 
studies/imaging which showed that you may have had something 
called "acute cholestatic hepatitis" which is inflammation of 
the liver due to a gallstone that may have already passed. You 
improved on your own while in the hospital, with improving liver 
function tests and an improving abdominal exam. However, it 
would be most appropriate for you to consider seeing a surgeon 
to discuss removing your gallbladder to prevent an event like 
this from happening again in the near future. You did not have 
any fevers or infections while in the hospital. 

It is very important to meet with your PCP as soon as possible 
to have your 

We wish you a fast recovery!

Take care,

Your ___ team.
 
Followup Instructions:
___